US06894061B2
4-[(6-Ethyl-8-fluoro-2-thien-3-ylphenanthridin-5(6H)-yl)sulfonyl]phenol
The title compound was prepared from 6-ethyl-8-fluoro-5-[(4-methoxyphenyl)sulfonyl]-2-thien-3-yl-5,6-dihydrophenanthridine (0.28 g, 0.58 mmol), cyclohexene (13 mL, 10.5 mmol), and 1 M boron tribromide in dichloromethane (3.5 mL, 3.5 mmol) according to the procedure and in the same manner as described in Example 47, Step b. The crude product was purified by flash column chromatography on silica gel, eluting with a mixture of ethyl acetate-hexane (1:4) to yield 4-[(6-ethyl-8-fluoro-2-thien-3-ylphenanthridin-5(6H)-yl)sulfonyl]phenol as a homogeneous solid (0.17 g, 63%);

reactant | 6-ethyl-8-fluoro-5-[(4-methoxyphenyl)sulfonyl]-2-thien-3-yl-5,6-dihydrophenanthridine | 0.58 mmol, 0.28 g | C(C)C1N(C=2C=CC(=CC2C2=CC=C(C=C12)F)C1=CSC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H22FNO3S2
reactant | cyclohexene | 10.5 mmol, 13 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 1 M | B(Br)(Br)Br | BBr3
reactant | dichloromethane | 3.5 mmol, 3.5 mL | ClCCl | CH2Cl2
product | 4-[(6-ethyl-8-fluoro-2-thien-3-ylphenanthridin-5(6H)-yl)sulfonyl]phenol | 0.17 g, 63% | C(C)C1N(C=2C=CC(=CC2C2=CC=C(C=C12)F)C1=CSC=C1)S(=O)(=O)C1=CC=C(C=C1)O | C25H20FNO3S2
